US07776869B2
1-(2-Methyl-3-nitrobenzyl)-4-methylpiperazine (1.2 g, 4.8 mmol) was dissolved in 50 ml of MeOH, and to this was added a slurry of 10% Pd/C in a minimal amount of EtOH. The reaction mixture was evacuated and purged with H2, and then stirred at room temperature for 3 hours. The mixture was purged with N2 for 30 minutes and then filtered through a pad of celite. Solvent evaporation afforded 2-methyl-3-((4-methylpiperazin-1-yl)methyl)benzeneamine.

reactant | 1-(2-Methyl-3-nitrobenzyl)-4-methylpiperazine | 4.8 mmol, 1.2 g | CC1=C(CN2CCN(CC2)C)C=CC=C1[N+](=O)[O-] | C13H19N3O2
reactant | EtOH | CCO | C2H6O
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-methyl-3-((4-methylpiperazin-1-yl)methyl)benzeneamine | CC1=C(C=CC=C1CN1CCN(CC1)C)N | C13H21N3
